US07563910B2
5-(2-Fluoro-5-trifluoromethyl-phenyl)-2-methyl-1-[(S)-1-(tetrahydro-furan-2-yl)methyl]-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
The title compound was synthesized in analogy to example 7, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-[2-fluoro-5-(trifluoromethyl)-phenyl]-ethanone as compound of formula S, (S)-tetrahydrofurfurylamine as R3—(CH2)m—NH2 and (1R,2R)-2-aminocyclohexanol as R1R2NH, MS (ISP) 469.5 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-[2-fluoro-5-(trifluoromethyl)-phenyl]-ethanone | BrCC(=O)C1=C(C=CC(=C1)C(F)(F)F)F | C9H5BrF4O
reactant | (S)-tetrahydrofurfurylamine | C([C@@H]1CCCO1)N | C5H11NO
reactant | (1R,2R)-2-aminocyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(2-Fluoro-5-trifluoromethyl-phenyl)-2-methyl-1-[(S)-1-(tetrahydro-furan-2-yl)methyl]-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)C(F)(F)F)F)C[C@H]1OCCC1)C | C24H28F4N2O3
